US04250094
PREPARATION 5: 8-Chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine
A stirred mixture of chloroacetic acid, 2-(7-chloro-5-phenyl-3H-1,4-benzodiazepin-2-yl) hydrazide (23.7 g.) in acetic acid (280 ml.), under nitrogen was placed in an oil bath that had been preheated to 140° C. After 20 minutes the mixture was cooled and concentrated in vacuo. The residue was mixed with water, neutralized with sodium bicarbonate and extracted with chloroform. The extract was washed with brine, dried over anhydrous sodium sulfate and concentrated. Crystallization of the residue from ethyl acetate gave 18.1 g. of 8-chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[3,4-a][1,4]benzodiazepine of melting point 187°-189° C. (dec.) and 1.74 g. of melting point 187°-189° C. (dec.). This product was the same as that obtained in Preparation 2.

reactant | chloroacetic acid, 2-(7-chloro-5-phenyl-3H-1,4-benzodiazepin-2-yl) hydrazide | 23.7 g | ClC=1C=CC2=C(C(=NCC(=N2)NNC(CCl)=O)C2=CC=CC=C2)C1 | C17H14Cl2N4O
solvent | acetic acid | 280 ml | C(C)(=O)O | C2H4O2
product | 8-Chloro-1-(chloromethyl)-6-phenyl-4H-s-triazolo[4,3-a][1,4]benzodiazepine | ClC=1C=CC2=C(C(=NCC=3N2C(=NN3)CCl)C3=CC=CC=C3)C1 | C17H12Cl2N4
